* File: myNAND.pex.netlist.pex
* Created: Wed Nov 27 14:02:31 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYNAND%A 3 7 9 10 12 15
c16 15 GND 0.00291806f
c17 10 GND 0.00240483f
c18 9 GND 0.0118791f
c19 7 GND 0.0237704f
c20 3 GND 0.0149599f
r21 15 16 77.0449
r22 12 15 0.287714
r23 9 16 3.471
r24 9 10 0.631437
r25 5 10 5.62096
r26 5 7 38.61
r27 1 10 5.62096
r28 1 3 19.11
.ends

.subckt PM_MYNAND%GND! 1 3 11 13 20
c14 20 GND 0.0251571f
c15 11 GND 0.0075667f
c16 10 GND 0.00361845f
c17 3 GND 0.00968128f
c18 1 GND 0.00755817f
r19 14 20 0.0335492
r20 11 13 0.438462
r21 10 20 0.171069
r22 10 13 0.146154
r23 5 11 0.212696
r24 3 5 0.787143
r25 1 14 0.787143
.ends

.subckt PM_MYNAND%B 3 7 11 14
c16 14 GND 0.00219686f
c17 11 GND 0.0150315f
c18 7 GND 0.0193899f
c19 3 GND 0.0180959f
r20 11 16 5.74737
r21 10 14 0.298571
r22 10 11 77.0449
r23 5 16 2.87494
r24 5 7 26.13
r25 1 16 2.87494
r26 1 3 32.37
.ends

.subckt PM_MYNAND%Z 1 2 5 9 10
c16 10 GND 0.00258709f
c17 9 GND 0.00465602f
c18 5 GND 0.0160444f
c19 1 GND 0.00755799f
r20 9 11 0.212696
r21 9 10 0.76
r22 3 10 0.212696
r23 3 5 0.57
r24 2 5 0.922857
r25 1 11 0.461429
.ends

.subckt PM_MYNAND%VDD! 2 3 4 12 17 24
c16 24 GND 0.0023228f
c17 17 GND 0.02158f
c18 12 GND 0.00756792f
c19 11 GND 0.00361845f
c20 4 GND 0.00978021f
c21 3 GND 0.0104758f
c22 2 GND 0.0068523f
r23 18 24 0.171069
r24 17 19 0.212696
r25 17 18 1.92923
r26 13 24 0.0335492
r27 11 24 0.171069
r28 11 12 0.584615
r29 6 12 0.212696
r30 4 6 0.814286
r31 3 19 0.814286
r32 2 13 0.814286
.ends

